* Z:\mnt\spice-netlists\LT3724.asc
M1 IN N007 N008 N008 Si4886DY
D1 N002 N005 PMEG6010AED
C1 N005 N008 0.22µ
R1 IN N001 1Meg
R2 N010 N009 40.2k
C2 N009 0 680p
D2 0 N008 MBRS360
L1 N008 N011 47µ
R3 N011 OUT 25m
R4 N006 0 4.99K
R5 N006 OUT 93.1K
R6 N003 OUT 200K
C3 N004 N003 {.001µ/5}
C4 OUT 0 330µ
V1 IN 0 48
D3 OUT N002 1N4148
XU1 IN MP_01 N001 N004 N006 N006 N010 OUT N011 0 MP_02 N002 MP_03 N008 N007 N005 0 LT3724
C5 0 N002 1µ
R7 OUT 0 7.68
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 4m startup
* LT3724 - High Voltage, Current Mode Switching Regulator Controller\nInput: 48V    Output: 24V @ 3.125A
* Notes:\n  C3 is reduced from a practical value to speed up simulation of the softstart cycle.\n \n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LT3724.sub
.backanno
.end
