* Z:\mnt\spice-netlists\LT3741.asc
XU1 0 N003 N005 N005 MP_01 N005 MP_02 N013 MP_03 N017 N012 N014 MP_04 N016 N007 MP_05 MP_06 MP_07 MP_08 MP_09 MP_10 MP_11 N006 N008 N004 N011 N002 N001 LT3741
V1 N001 0 12
C1 0 N002 2.2µ
C2 N004 N008 .22µ
D1 N002 N004 1N5819
M§Q1 N001 N006 N008 N008 RJK0305DPB
M§Q2 N008 N011 0 0 RJK0301DPB
L1 N008 N009 1.3µ
R1 N009 N010 2.5m
R2 N010 N017 40.2K
R3 N017 0 10K
C3 N010 0 400µ
C4 N015 0 4.7n
C5 N013 0 1n
R4 N007 0 100K
V2 N003 0 5
C6 N005 0 .01µ
C7 N001 0 100µ
R5 N016 N015 66.5K
D2 N010 0 PT-121-B
D3 0 N008 SS24
R6 N009 N012 10
R7 N010 N014 10
C8 N012 N014 33n
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
* LT3741 - High Power, Constant Current, Constant Voltage, Step-Down Controller\nInput: 12V   Output: Up to 6V, 20A.
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2010 Linear Technology Inc. All rights reserved.
.lib LT3741.sub
.backanno
.end
