* Z:\mnt\spice-netlists\LT3742.asc
XU1 N004 IN N002 N001 N003 N005 N008 MP_01 MP_02 N009 OUT2 N011 N018 N013 N015 N014 N012 N017 N010 OUT1 N006 MP_03 MP_04 N007 0 LT3742
C1 IN N001 4.7µ
R1 IN N002 45.3K
R2 N002 0 20K
M§Q1 IN N004 N007 N007 IRF7201
L1 N007 N006 6.5µ
R3 N006 OUT1 10m
R4 OUT1 N010 1.8K
R5 N010 0 200
C2 OUT1 0 47µ
M§Q2 IN N005 N008 N008 IRF7201
L2 N008 N009 6.5µ
R6 N009 OUT2 10m
R7 OUT2 N011 1.05K
R8 N011 0 200
C3 OUT2 0 47µ
R9 OUT1 N012 100K
C4 N014 0 470p
C5 N015 0 470p
C6 N016 0 1000p
C7 N019 0 1000p
R10 OUT2 N013 100K
V1 IN 0 14
D1 0 N008 B530C
D2 0 N007 B530C
Rload1 OUT1 0 2
Rload2 OUT2 0 1.25
L3 IN N003 10µ
R11 N017 N016 30K
R12 N018 N019 20K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m startup
* LT3742 dual, 2-phase step-down DC/DC switching controller\nInput: 14V   Outputs: 8V@4A and 5V@4A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2009 Linear Technology Inc. All rights reserved.
* 8V @ 4A
* 5V @ 4A
.lib LT3742.sub
.backanno
.end
