* Z:\mnt\spice-netlists\LT3743.asc
XU1 0 N003 N002 N003 MP_01 N007 0 N012 MP_02 N021 N013 N018 N024 N025 N005 MP_03 N003 N023 N017 MP_04 MP_05 N016 N006 N008 N004 N011 N001 IN LT3743
V1 IN 0 12
M§Q1 IN N006 N008 N008 RJK0305DPB
M§Q2 N008 N011 0 0 RJK0301DPB
D1 N001 N004 1N5817
C1 N001 0 2.2µ
C2 N002 0 .002µ
C3 N004 N008 0.22µ
L1 N008 N009 1.3µ
R1 N009 N010 2.5m
D2 N010 0 PT-121-B
R2 N021 0 10K
R3 N010 N021 51K
C4 N025 N027 5.6n
R4 N005 0 100K
V2 N007 0 2
V3 N003 0 5
V4 N023 0 2
M§Q3 N020 N017 N022 N022 Si7234DP
M§Q4 N019 N016 0 0 Si7234DP
C5 N010 N014 100µ
C6 N010 N015 1000µ
C7 N022 0 1000µ
R5 N009 N013 10
R6 N010 N018 10
D3 0 N008 SS24
C8 IN 0 120µ
R7 N027 0 51k
R8 N026 0 51k
C9 N024 N026 5.6n
C10 N021 0 1n
C11 N012 0 .001µ
M§Q5 N019 N016 N014 N014 Si7234DP
M§Q6 N020 N017 N015 N015 Si7234DP
R9 N001 N022 3.01k
R10 N022 0 2k
C12 N010 0 10µ
C13 N013 N018 33n
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
* LT3743 - High Current Synchronous Step-Down LED Driver with Three-State Control\nInput: 12V   Output: Up to 6V, 20A.
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2009 Linear Technology Inc. All rights reserved.
.lib LT3743.sub
.backanno
.end
