* Z:\mnt\spice-netlists\LT3748.asc
R1 N005 0 56.2K
V1 IN 0 48
C1 N008 N007 4700p
C2 0 N012 4.7µ
R2 N004 N003 243K
R3 N006 0 6.04K
L1 IN N004 60.8µ
L2 0 N001 3.85µ
C3 OUT 0 100µ
D1 N001 OUT 30BQ060
R4 N007 0 22K
C4 N010 0 2000p
R5 IN N002 412K
R6 N002 0 15.4K
XU1 0 MP_01 MP_02 N009 IN N012 N002 MP_03 MP_04 N010 N011 N008 N003 N006 N005 LT3748
M§Q1 N004 N009 N011 N011 Si4490DY
R7 N011 0 33m
Rload OUT 0 6
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 1
.tran 3m startup
* LT3748 - 100V Isolated Flyback Controller Without Optcoupler or Third Winding\nInput: 48V       Output: 12V@2A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2010 Linear Technology Inc. All rights reserved.
.lib LT3748.sub
.backanno
.end
