* Z:\mnt\spice-netlists\LT3751.asc
XU1 N002 N008 N011 N003 N006 N013 N014 N012 0 0 0 N010 IN IN N009 N015 MP_01 N007 MP_02 N004 0 LT3751
V1 IN 0 24
R1 IN N002 40.2K
R2 N005 N004 18.2K
R3 N005 N007 40.2K
M§Q1 N005 N009 N010 N010 IRFP4668
R4 N010 0 6m
R5 N015 0 1.30k
R6 IN N008 374K
R7 IN N011 475K
R8 IN N003 374K
R9 IN N006 475K
R10 IN N013 100K
R11 IN N014 100K
V2 N012 0 PWL(.1m 0 .101m 5)
L1 IN N005 10µ
L2 0 N001 1000µ
D1 N001 OUT MUR460
C1 OUT 0 3.3µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 1
.tran 4m startup
* LT3751 - Capacitor Charger Controller with Regulation\nInput: 24V   Output: 300V
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2010 Linear Technology Inc. All rights reserved.
* Scale charge time by the output capacitance\nused in the practical circuit.  For simulation, a 3.3uF\ncap is used to reduce simulation time.
.lib LT3751.sub
.backanno
.end
