* Z:\mnt\spice-netlists\LT3782.asc
XU1 MP_01 MP_02 MP_03 0 N015 MP_04 N010 N006 0 N014 N010 0 N007 N013 N011 N008 N009 MP_05 0 N005 N003 N003 N004 0 MP_06 MP_07 IN N003 LT3782
M§Q1 N002 N005 N007 N007 Si4840DY
L1 IN N002 10µ
D1 N002 OUT MBR735
M§Q2 N001 N004 N006 N006 Si4840DY
D2 N001 OUT MBR735
R1 N010 0 61.9K
R2 N014 0 100K
R3 OUT N008 475K
R4 N008 0 53.6K
L2 IN N001 10µ
C1 N013 0 .002µ
C2 N012 0 .022µ
R5 N011 N012 14K
R6 IN N009 825K
R7 N009 0 274K
V1 IN 0 10
R8 N006 0 12m
R9 N007 0 12m
C3 0 N003 1µ
C4 N011 0 47p
C5 OUT 0 100µ
I1 OUT 0 2 load
C6 OUT 0 4.7µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2.5m startup
* LT3782, Two Phase Boost DC/DC Converter\nInput: Vin 10V to14V      Output: 24V @ 2.0A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LT3782.sub
.backanno
.end
