* Z:\mnt\spice-netlists\LT3800.asc
XU1 IN MP_01 N003 N005 N007 N007 N012 OUT N009 0 N010 N001 MP_02 N008 N006 N002 0 LT3800
M§Q1 IN N006 N008 N008 Si4850EY
M§Q2 N008 N010 0 0 Si4470DY
C1 N002 N008 1µ
R1 IN N003 1Meg
R2 N012 N011 82.5K
C2 N011 0 680p
D1 0 N008 MBRS1100
L1 N008 N009 15µ
R3 N009 OUT 15m
R4 N007 0 20K
R5 N007 OUT 174K
R6 N004 OUT 200K
C3 N005 N004 1500p
C4 OUT 0 270µ
V1 IN 0 55
D2 OUT N001 1N4148
R7 N003 0 82.5K
D3 N001 N002 1N4148
Rload OUT 0 1.92
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 10m startup
* LT3800 - High-Voltage Synchronous Current Mode Step-Down Controller\nInput: 20V to 55V      Output: 12V @ 6.25A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LT3800.sub
.backanno
.end
