* Z:\mnt\spice-netlists\LT3957.asc
R1 N006 0 41.2K
R2 N008 0 15.8K
R3 OUT N008 105K
L1 IN N002 4.7µ
D1 N002 OUT MBRS130L
R4 N007 P001 10K
C2 P001 0 .01µ
V1 IN 0 5
C4 N004 0 .02µ
R5 N003 0 39.2K
R6 IN N003 49.9K
Rload OUT 0 15
XU1 N007 N008 N004 N006 N002 N005 N005 N001 N003 IN 0 0 LT3957
C1 OUT 0 22µ
C3 0 N001 4.7µ
R7 IN N001 10
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 3m startup
* LT3957 - Boost, Flyback, SEPIC and Inverting Converter with 5A, 40V Switch \nBoost Topology, Input: 3V to 6V, Output: 12V @ 800mA
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2010 Linear Technology Inc. All rights reserved.
.lib LT3957.sub
.backanno
.end
