* Z:\mnt\spice-netlists\LT3972.asc
L1 N004 OUT 6.8µ
D1 0 N004 MBRS340
C1 OUT 0 47µ
V1 IN 0 24
R1 OUT N008 536K
R2 N008 0 100K
C2 N004 N006 .47µ
C3 N002 0 680p
R3 N003 N002 15K
R5 N005 0 63.4K
R6 OUT N007 100K
R4 IN N001 100K
C4 N001 0 .22µ
XU1 OUT N006 N004 IN N001 MP_01 N007 N008 N003 N005 0 LT3972
Rload OUT 0 1.43
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2009 Linear Technology Inc. All rights reserved.
* LT3972 - 3.5A, 33V switching regulator \nInput: 24V       Output: 5V @ 3.5A
.lib LT3972.sub
.backanno
.end
