* Z:\mnt\spice-netlists\LT3980.asc
XU1 OUT N001 N002 IN IN N004 NC_01 N006 N005 N003 0 LT3980
V1 IN 0 12
R1 N003 0 97.6K
C1 N005 0 1000p
C2 N001 N002 .47µ
L1 N002 OUT 10µ
D1 N004 N002 MBRS360
R2 OUT N006 536K
R3 N006 0 100K
C3 OUT 0 47µ
C4 IN 0 10µ
C5 OUT N006 22p
Rload OUT 0 2.5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 750u startup
* 400kHz
* LT3980 - 58V, 2A Step-Down Switching Regulator with 85µA Quiescent Current\nInput: 6.5V - 58V   Output: 5V @ 2A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2009 Linear Technology Inc. All rights reserved.
.lib LT3980.sub
.backanno
.end
