* Z:\mnt\spice-netlists\LT8710.asc
V1 IN 0 12
R1 N007 0 10K
R2 IN N007 12.7K
R3 N010 0 118K
C1 N009 0 2.2µ
L1 IN N001 2.2µ
L2 0 N002 2.2µ
C2 N015 0 47n
C3 N016 0 10n
C4 N013 0 100p
C5 N014 0 4.7n
R4 N013 N014 12.1K
R5 OUT N003 6m
R6 N005 0 2m
R7 OUT N011 45.3K
M§Q1 N001 N004 N005 N005 IPP039N04L
M§Q2 N002 N006 N003 N003 Si4401DY
C6 N001 N002 30µ
C7 OUT 0 330µ
C8 OUT 0 200µ
R8 N009 N012 100K
XU1 N011 N013 N016 N012 N015 OUT N003 OUT N008 N006 N004 N009 IN 0 N005 N007 0 N010 MP_01 0 LT8710
C9 N008 OUT 2.2µ
Rload OUT 0 0.84
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2.5m startup
K1 L1 L2 1
* LT8710 -- Synchronous SEPIC/ Inverting / Boost Controller with Output Current Control\nSynchronous SEPIC DC/DC Converter with Output Current Control\nInput: 4.5V to 28V       Output: 5V @ 6A, Fsw = 300kHz
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2014 Linear Technology Inc. All rights reserved.
.lib LT8710.sub
.backanno
.end
